US08404682B2
N-Ethyl-N-tetrahydro-2H-pyran-4-yl-[2,1,3]-benzoxadiazole-5-carboxamide
To a solution of tetrahydro-4H-pyran-4-one (1.0 g, 10 mmol) in methanol (60 ml) was added ethylamine hydrochloride (815 mg, 10 mmol), 1 ml of NEt3, and 10% Pd on C (350 mg). The mixture was hydrogenated at room temperature over night (18 hours). The solids were filtered, washed with methanol (20 ml) and concentrated under vacuum. The residue was dissolved in chloroform (70 ml) and NEt3 (2 ml) and a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (600 mg, 3.28 mmol) in chloroform (10 ml) was added slowly. After stirring for 0.5 h, the mixture was washed with water (100 ml) and H2SO4 (→pH 2) and NaHCO3 solution (100 ml). The aqueous was extracted with chloroform (100 ml) and the combined organics were dried over MgSO4 and concentrated under vacuum to give an oil. Chromatography on silica gel eluting with ethyl acetate/hexane (75:25) and chloroform/acetone (85:15), gave white solid after crystallization from diethyl ether (470 mg). Mp=102-4° C., LC-MS, MH+=276; 1H NMR (300 MHz, CDCl3, 2 rotamers) δ 7.93 (d, 1H, J=9.0 Hz); 7.80 (s, 1H); 7.38 (d, 1H, J=9.0 Hz); 4.75-4.45 and 4.15-3.90 and 3.75-3.05 (m+m+m, 7H); 2.04-1.05 ppm (m, 7H).

reactant | tetrahydro-4H-pyran-4-one | 10 mmol, 1.0 g | O1CCC(CC1)=O | C5H8O2
reactant | ethylamine hydrochloride | 10 mmol, 815 mg | Cl.C(C)N
reactant | NEt3 | 1 ml | CCN(CC)CC | C6H15N
reactant | NEt3 | 2 ml | CCN(CC)CC | C6H15N
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 3.28 mmol, 600 mg | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | methanol | 60 ml | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd | [Pd] | Pd
solvent | chloroform acetone | C(Cl)(Cl)Cl.CC(=O)C
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-Ethyl-N-tetrahydro-2H-pyran-4-yl-[2,1,3]-benzoxadiazole-5-carboxamide | C(C)N(C(=O)C1=CC=2C(=NON2)C=C1)C1CCOCC1 | C14H17N3O3
